US06727264B1
6-CHLORO-1-(2-FLUOROPHENYL)-1H-INDOLE:
Prepared by Procedure C and Scheme O using 6-chloro-1H-indole and 1-fluoro-2-iodobenzene: ESMS m/e: 245.9 (M+H)+.

reactant | 6-chloro-1H-indole | ClC1=CC=C2C=CNC2=C1 | C8H6ClN
reactant | 1-fluoro-2-iodobenzene | FC1=C(C=CC=C1)I | C6H4FI
product | 6-CHLORO-1-(2-FLUOROPHENYL)-1H-INDOLE | ClC1=CC=C2C=CN(C2=C1)C1=C(C=CC=C1)F | C14H9ClFN
